* Z:\mnt\design.r\spice\examples\2960-1.asc
Vbat N001 0 PWL(0 0 20 9 40 0)
R1 N001 N002 10Meg
R2 OUT _LOWBAT 1Meg
R3 N001 N004 5.11Meg
R4 N004 N005 49.9K
R5 N005 0 348K
R6 N001 N003 10K
XU1 N003 N003 _LOWBAT N002 0 N003 N005 N004 LTC2960-1
XU2 N001 OUT OUT 0 N002 LT3008-3.3
* Configurable Regulator UVLO and Low Battery Indicator
* 6V to 8.4V
.tran 40
.lib LT3009.lib
.lib LTC2960-1.sub
.backanno
.end
